US09284331B2
Step 7: sodium 2-(7-(2-((tert-butoxycarbonyl)amino)acetyl)-4-chloro-5,6,7,8-tetrahydro-1,7-naphthyridin-8-yl)acetate.
94-7. To a stirred solution of methyl 2-(7-(2-((tert-butoxycarbonyl)amino)acetyl)-4-chloro-5,6,7,8-tetrahydro-1,7-naphthyridin-8-yl)acetate (540 mg, 1.36 mmol) in MeOH (10 mL), 4N aqueous NaOH (0.39 mL, 1.56 mmol) was added and the solution was stirred at RT for 5 days. The solvent was evaporated under reduced pressure. The residue was dried under high vacuo overnight to yield the title compound as a beige powder (540 mg) which was used without further purification in the next step. UPLC-MS: MS 384.1 (M+H+); UPLC rt 0.81 min.

reactant | methyl 2-(7-(2-((tert-butoxycarbonyl)amino)acetyl)-4-chloro-5,6,7,8-tetrahydro-1,7-naphthyridin-8-yl)acetate | 1.36 mmol, 540 mg | C(C)(C)(C)OC(=O)NCC(=O)N1CCC=2C(=CC=NC2C1CC(=O)OC)Cl | C18H24ClN3O5
reactant | NaOH | 1.56 mmol, 4N, 0.39 mL | [OH-].[Na+]
solvent | MeOH | 10 mL | CO | CH4O
product | sodium 2-(7-(2-((tert-butoxycarbonyl)amino)acetyl)-4-chloro-5,6,7,8-tetrahydro-1,7-naphthyridin-8-yl)acetate | 540 mg | C(C)(C)(C)OC(=O)NCC(=O)N1CCC=2C(=CC=NC2C1CC(=O)[O-])Cl.[Na+] | InChI=1S/C17H22ClN3O5.Na/c1-17(2,3)26-16(25)20-9-13(22)21-7-5-10-11(18)4-6-19-15(10)12(21)8-14(23)24;/h4,6,12H,5,7-9H2,1-3H3,(H,20,25)(H,23,24);/q;+1/p-1
